US08871756B2
6-Benzyl-2-oxa-6-aza-spiro[3.4]oct-8-ylamine
The mixture of 6-benzyl-8-nitro-2-oxa-6-aza-spiro[3.4]octane (2 g, 8.1 mmol), iron powder (2.3 g, 40.5 mmol), ammonium chloride (4.3 g, 81 mmol), methanol (40 mL) and 8 mL of water was heated with stirring for 2 hours at 80° C. The reaction mixture was filtered by a pad of celite. The filtrate was concentrated under reduced pressure, and the residue was used for next step without further purification.

reactant | 6-benzyl-8-nitro-2-oxa-6-aza-spiro[3.4]octane | 8.1 mmol, 2 g | C(C1=CC=CC=C1)N1CC2(COC2)C(C1)[N+](=O)[O-] | C13H16N2O3
reactant | ammonium chloride | 81 mmol, 4.3 g | [Cl-].[NH4+]
reactant | methanol | 40 mL | CO | CH4O
catalyst | iron | 40.5 mmol, 2.3 g | [Fe] | Fe
solvent | water | 8 mL | O | H2O
product | 6-Benzyl-2-oxa-6-aza-spiro[3.4]oct-8-ylamine | C(C1=CC=CC=C1)N1CC2(COC2)C(C1)N | C13H18N2O
